US04681875
With decanoyl chloride, under the conditions described in Example 3(a), 750 mg of 16α-(tert-butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol yields 1.10 g of 16α-(tert-butyldimethylsilyloxy)-3,17β-didecanoyloxy-1,3,5(10)-estratriene.

reactant | decanoyl chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | 16α-(tert-butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol | 750 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O | C24H38O3Si
product | 16α-(tert-butyldimethylsilyloxy)-3,17β-didecanoyloxy-1,3,5(10)-estratriene | 1.10 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC(CCCCCCCCC)=O)OC(CCCCCCCCC)=O | C44H74O5Si
